US05017724
500 Milligrams of hydroxylamine hydrochloride was added to an ethanol-chloroform (5:1) solution containing 910 mg of 5,7-dimethyl-8-methoxy-9-formylmethyl-1,2,3,4-tetrahydro-9H-fluorene in 18 ml of ethanol-chloroform and the mixture was refluxed with heating for 2 hours. The reaction mixture was diluted with chloroform and then washed with saturated aqueous sodium chloride solution and subsequently the solvent was distilled off. The residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:10) to obtain 670 mg of 5,7-dimethyl-8-methoxy-9-hydroxyiminomethyl-1,2,3,4-tetrahydro-9H-fluorene

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | 5,7-dimethyl-8-methoxy-9-formylmethyl-1,2,3,4-tetrahydro-9H-fluorene | 910 mg | CC1=C2C=3CCCCC3C(C2=C(C(=C1)C)OC)CC=O | C18H22O2
solvent | ethanol chloroform | 18 ml | C(C)O.C(Cl)(Cl)Cl
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5,7-dimethyl-8-methoxy-9-hydroxyiminomethyl-1,2,3,4-tetrahydro-9H-fluorene | 670 mg | CC1=C2C=3CCCCC3C(C2=C(C(=C1)C)OC)C=NO | C17H21NO2
